US04723002
(A) 2-Chloro-1-[3,4-bis(acetyloxy)phenyl]ethanone
A suspension of α-chloro-3',4'-dihydroxyacetophenone (9.33 g, 0.05 mole) in 78 ml of acetic anhydride was treated with 0.1 ml of concentrated sulfuric acid and stirred for 1.5 hours under an argon atmosphere. Initially, the reaction temperature rose to 40° C. and the starting material completely dissolved yielding a clear, colorless solution which was poured onto approximately 300 g of crushed ice. After standing for one hour, the crystallized product was filtered, washed with cold water (200 ml) and dried in vacuo overnight at room temperature; yield: 11.5 g.

reactant | α-chloro-3',4'-dihydroxyacetophenone | 0.05 mole, 9.33 g | ClCC(=O)C1=CC(=C(C=C1)O)O | C8H7ClO3
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic anhydride | 78 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Chloro-1-[3,4-bis(acetyloxy)phenyl]ethanone | ClCC(=O)C1=CC(=C(C=C1)OC(C)=O)OC(C)=O | C12H11ClO5
